US05866568
Tetrakis(triphenylphosphine)palladium (0) (45 mg) was added to a deoxygenated solution of (2-pyridyl)tributylstannane (294 mg) and N-isobutoxycarbonyl-N-(3-methoxy-5-methylpyrazin-2-yl)-2-(4-iodophenyl)pyridine-3-sulphonamide(465 mg) in xylene (15 ml). The mixture was stirred and heated under argon at 125° C. for 17 hours and then allowed to cool to ambient temperature. Water was added and the mixture was extracted with ethyl acetate. The organic layers were combined, washed with saturated sodium chloride solution then dried (MgSO4). Volatile material was removed by evaporation and the residue was purified by chromatography on a silica gel Mega Bond Elut column, eluting with 0-65% ethyl acetate/hexane to give N-isobutoxycarbonyl-N-(3-methoxy-5-methylpyrazin-2-yl)-2-(4-(2-pyridyl)phenyl)pyridine-3-sulphonamide (135 mg) as a foam; 1H NMR (CDCl3): 0.7 (d, 6 H), 1.7 (m, 1 H), 2.5 (s, 3 H), 3.8 (d, 2 H), 4.0 (s, 3 H), 7.5 (dd, 2 H), 7.6-7.8 (m, 4 H), 7.9 (s, 1 H), 8.1 (dd, 2 H), 8.7 (dd, 1 H), 8.9 (dd, 1 H), 9.0 (dd, 1 H); mass spectrum (+ve ESP): 534 (M+H)+.

reactant | (2-pyridyl)tributylstannane | 294 mg | N1=C(C=CC=C1)[Sn](CCCC)(CCCC)CCCC
reactant | N-isobutoxycarbonyl-N-(3-methoxy-5-methylpyrazin-2-yl)-2-(4-iodophenyl)pyridine-3-sulphonamide | 465 mg | C(C(C)C)OC(=O)N(S(=O)(=O)C=1C(=NC=CC1)C1=CC=C(C=C1)I)C1=NC=C(N=C1OC)C | C22H23IN4O5S
reactant | Water | O | H2O
solvent | xylene | 15 ml | C=1(C(=CC=CC1)C)C | C8H10
catalyst | Tetrakis(triphenylphosphine)palladium | 45 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | N-isobutoxycarbonyl-N-(3-methoxy-5-methylpyrazin-2-yl)-2-(4-(2-pyridyl)phenyl)pyridine-3-sulphonamide | 135 mg | C(C(C)C)OC(=O)N(S(=O)(=O)C=1C(=NC=CC1)C1=CC=C(C=C1)C1=NC=CC=C1)C1=NC=C(N=C1OC)C | C27H27N5O5S
